US04871841
(C) 3-Aminotetrahydro-2(1H)-pyrimidinone, monohydrochloride
A solution of 5.7 g (28.0 mmol) tetrahydro-3-[(phenylmethylene)amino]-2(1H)-pyrimidinone in a mixture of 43 ml water and 43 ml concentrated hydrochloric acid was steam distilled until no additional benzaldehyde condensed. The residual solution was evaporated to dryness, triturated with ethanol and dried in vacuo. Yield 3.07 g, melting point 210°-215° C.

reactant | tetrahydro-3-[(phenylmethylene)amino]-2(1H)-pyrimidinone | 28.0 mmol, 5.7 g | C1(=CC=CC=C1)C=NN1C(NCCC1)=O | C11H13N3O
reactant | hydrochloric acid | 43 ml | Cl | ClH
solvent | water | 43 ml | O | H2O
product | 3-Aminotetrahydro-2(1H)-pyrimidinone, monohydrochloride | Cl.NN1C(NCCC1)=O | InChI=1S/C4H9N3O.ClH/c5-7-3-1-2-6-4(7)8;/h1-3,5H2,(H,6,8);1H
